US07528262B2
1-[3-Chloro-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-2-methyl-1H-indole was synthesized by a method analogous to that used for Example 4, using 4-bromo-2-chlorophenol in the first step rather than 4-iodophenol and 2-methylindole in the final step. LC-MS (C22H25ClN2O calc'd 368) m/z 369, 371 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.58-7.54 (m, 1H), 7.37 (d, J=2.4 Hz, 1H), 7.20 (dd, J=8.7 Hz, 2.7 Hz, 1H), 7.11-7.02 (m, 4H), 6.38 (s, 1H), 4.19 (t, J=6.3 Hz, 2H), 2.88 (t, J=7.2 Hz, 2H), 2.77 (m, 4H), 2.24-2.15 (m, 2H), 1.91-1.87 (m, 4H).

reactant | 4-bromo-2-chlorophenol | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | 4-iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | 2-methylindole | CC=1NC2=CC=CC=C2C1 | C9H9N
product | 1-[3-Chloro-4-(3-pyrrolidin-1-ylpropoxy)phenyl]-2-methyl-1H-indole | ClC=1C=C(C=CC1OCCCN1CCCC1)N1C(=CC2=CC=CC=C12)C | C22H25ClN2O
